* Z:\mnt\design.r\spice\examples\3203B.asc
V1 IN 0 3.6
C1 N001 N003 2.2µ
C2 OUT 0 10µ
R1 N002 0 100K
R2 IN N002 400K
XU1 N001 OUT N005 IN N004 N002 IN N003 0 N006 LTC3203B
R3 N004 0 100K
R4 OUT N004 350K
C3 N005 N006 2.2µ
Rload OUT 0 20
.tran 1m startup
.lib LTC3203B.sub
.backanno
.end
